US07320991B2
A mixture of about 250 mg (about 1 mmol) of 5-amino-5-ethyl-1-phenylbarbituric acid, about 260 mg (about 1.2 mmol) of tetrafluorophthalic anhydride, and about 7 mL of acetic acid was refluxed for about 3 hours. The solvent was evaporated to dryness under reduced pressure of from about 200 to about 15 mbar. The residue was recrystallized from ethyl alcohol to yield about 270 mg 5-ethyl-1-phenyl-5-(tetrafluorophthalimido)barbituric acid (a 60% yield) having a melting point of about 218° to about 220° C.

reactant | 5-amino-5-ethyl-1-phenylbarbituric acid | about 1 mmol, about 250 mg | NC1(C(NC(N(C1=O)C1=CC=CC=C1)=O)=O)CC | C12H13N3O3
reactant | tetrafluorophthalic anhydride | about 1.2 mmol, about 260 mg | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
solvent | acetic acid | about 7 mL | C(C)(=O)O | C2H4O2
product | 5-ethyl-1-phenyl-5-(tetrafluorophthalimido)barbituric acid | about 270 mg, 60% yield | C(C)C1(C(NC(N(C1=O)C1=CC=CC=C1)=O)=O)N1C(C=2C(C1=O)=C(C(=C(C2F)F)F)F)=O | C20H11F4N3O5
